US06251905B1
i) Synthesis of 4,5-dihydro-4-[4-(amino)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione.dihydrochloride
To a solution of 3.58 g (10.0 mmol) of 4,5-dihydro-4-[4-(tert-butoxycarbonylamino)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione in 30 ml of methanol was added 15 ml of conc. HCl. The mixture was stirred for one hour at room temperature. The solvent was distilled off. To the residue were added ethanol and ether. The resulting precipitate was collected by filtration and dried to give 3.28 g of the desired compound (99.1%, white solid), m.p.250.0-252.0° C.

reactant | 4,5-dihydro-4-[4-(tert-butoxycarbonylamino)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 10.0 mmol, 3.58 g | C(C)(C)(C)OC(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C18H22N4O4
reactant | HCl | 15 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 4,5-dihydro-4-[4-(amino)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione.dihydrochloride | 3.28 g, 99.1% | Cl.Cl.NCCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | InChI=1S/C13H14N4O2.2ClH/c14-6-1-2-7-16-12(18)9-4-3-5-11-15-8-10(13(16)19)17(9)11;;/h3-5,8H,1-2,6-7,14H2;2*1H
